US07915424B2
3-Methyl-5-phenylethynylpyridine
Add phenylacetylene (0.460 mL, 4.2 mmol), copper (I) iodide (0.072 g, 0.38 mmol) and bis(triphenylphosphine)palladium (II) dichloride (0.133 g, 0.19 mmol) to a solution of 3-bromo-5-methylpyridine, (prepared essentially as described in PREPARATION 1), (0.654 g, 3.8 mmol) in degassed triethylamine (20 mL) and stir under nitrogen at 80° C. for 16 h. Cool the reaction mixture to room temperature, filter through diatomaceous earth, wash with ethyl acetate, and concentrate. Purify the residue by silica gel chromatography, eluting with 80:20 hexanes:ethyl acetate, to give the title compound as a brown oil (0.398 g, 54%).

reactant | phenylacetylene | 4.2 mmol, 0.460 mL | C1(=CC=CC=C1)C#C | C8H6
reactant | 3-bromo-5-methylpyridine | BrC=1C=NC=C(C1)C | C6H6BrN
solvent | triethylamine | 20 mL | C(C)N(CC)CC | C6H15N
catalyst | copper (I) iodide | 0.38 mmol, 0.072 g | [Cu]I
catalyst | bis(triphenylphosphine)palladium | 0.19 mmol, 0.133 g | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
product | 3-Methyl-5-phenylethynylpyridine | 0.398 g, 54% | CC=1C=NC=C(C1)C#CC1=CC=CC=C1 | C14H11N
